US08497264B2
A 4-neck 3000-mL RBF with a mechanical stirrer was charged with (5-amino-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)methanol (29.43 g, 86 mmol), tetrabutylammonium hydrogen sulfate (5.85 g, 17.23 mmol), THF (431 mL), and bromoacetonitrile (30.0 mL, 431 mmol) to give a clear, brown solution. The resulting solution was stirred vigorously for 5 min, then a 2N aq. solution of NaOH (431 mL, 862 mmol) was added in one portion. The mixture was stirred overnight and concentrated under vacuum. The remaining material was partitioned between EtOAc (500 mL) and water (500 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×250 mL). The combined organic layers were washed with brine and dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was taken up in DCM and filtered through a short pad of silica gel. The filtrate was concentrated and purified by silica gel chromatography (0.5% MeOH/DCM) to provide 2-((5-amino-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)methoxy)acetonitrile.

reactant | (5-amino-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)methanol | 86 mmol, 29.43 g | NC1(C2=CC(=CC=C2OC=2C=NC(=CC21)Cl)Br)CO | C13H10BrClN2O2
reactant | bromoacetonitrile | 431 mmol, 30.0 mL | BrCC#N | C2H2BrN
reactant | NaOH | 862 mmol, 431 mL | [OH-].[Na+]
catalyst | tetrabutylammonium hydrogen sulfate | 17.23 mmol, 5.85 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 431 mL | C1CCOC1 | C4H8O
product | 2-((5-amino-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)methoxy)acetonitrile | NC1(C2=CC(=CC=C2OC=2C=NC(=CC21)Cl)Br)COCC#N | C15H11BrClN3O2
